US08198327B2
N-Oleoyl L-Serine.
A solution of hydroxysuccinimide ester of oleic acid (395 mg, 1 mmole) in tetrahydrofuran (10 ml) was added to a solution of L-serine (105 mg, 1 mmole) and sodium bicarbonate 84 mg, 1 mmole) in water (10 ml). The reaction mixture was let stirring overnight at room temperature, evaporated down to 10 ml, and acidified to pH 1 with 1 N HCl. The product was extracted with methylene chloride (2×20 mL) and dried (MgSO4) and the solvent evaporated under reduced pressure. The crude material was chromatographed on silica gel (eluting with chloroform:methanol) to give 221.7 mg (60%) as a white powder, m.p. 118 C, NMR (CD3OH, ppm): 5.35-5.32 (m, 2H), 4.57-4.36 (m, 1H), 3.90-3.85 (dd, J=12 Hz, 6 Hz, 1H), 3.82-3.78 (dd, J=12Hz, 6 Hz, 1H), 2.29-2.24 (t, 2H), 2.03-1.98 m, 4H), 1.68-1.58 (m, 2H), 1.32-1.29 (m, 22H), 0.91-0.87 (t, 3H). GC-MS (dTMS): 513, 498, 250, 132 m/z; LC-MS(−p): (M-H)+=368 m/z.

reactant | oleic acid | 1 mmole, 395 mg | C(CCCCCCC\C=C/CCCCCCCC)(=O)O | C18H34O2
reactant | L-serine | 1 mmole, 105 mg | N[C@@H](CO)C(=O)O | C3H7NO3
reactant | sodium bicarbonate | 1 mmole, 84 mg | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | water | 10 ml | O | H2O
product | N-Oleoyl L-Serine | C(CCCCCCC\C=C/CCCCCCCC)(=O)N[C@@H](CO)C(=O)O | C21H39NO4
